US05234946
106 mg of 5-(3-methylphenyl)isoxazole, 119 mg of N-bromosuccinimide and 2 mg of benzoyl peroxide were dissolved in 10 ml of carbon tetrachloride, and the solution was refluxed for 3 hours with stirring. After cooling, the precipitate was separated by filtration, and concentrated under reduced pressure to give 5-(3-bromomethylphenyl)isoxazole as a pale yellow oily product.

reactant | 5-(3-methylphenyl)isoxazole | 106 mg | CC=1C=C(C=CC1)C1=CC=NO1 | C10H9NO
reactant | N-bromosuccinimide | 119 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 2 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(3-bromomethylphenyl)isoxazole | BrCC=1C=C(C=CC1)C1=CC=NO1 | C10H8BrNO
